US06414160B1
Synthesis of 3-diphenylmethyl-4-methoxycarbonyl-5-phenyl-2-oxazolidinone
Under argon atmosphere, in 3 ml of methylene chloride was dissolved 141 mg (0.5 mmol) of 3-diphenylmethyl-5-methoxy-2(3H)oxazolone, and after cooling the solution to −78° C., 53.1 mg (0.5 mmol) of benzaldehyde and 0.05 ml (0.05 mmol) of a methylene chloride solution containing 1.0 M-TiBr4 were added to the solution and the mixture was reacted under stirring for 2 hours. Then, the temperature of the mixture was raised to room temperature, and after stirring for further 16 hours, 15 ml of a saturated aqueous sodium hydrogen carbonate solution was added to the resulting reaction mixture and the mixture was extracted with 20 ml of methylene chloride. The organic layer was washed with 15 ml of a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. When the resulting concentrated residue was quantitated by the HPLC method, yield of 3-diphenylmethyl-4-methoxycarbonyl-5-phenyl-2-oxzolidinone was 26%. A formation ratio of cis/trans-isomers of the formed product was 8/92.

reactant | 3-diphenylmethyl-5-methoxy-2(3H)oxazolone | 0.5 mmol, 141 mg | C1(=CC=CC=C1)C(N1C(OC(=C1)OC)=O)C1=CC=CC=C1 | C17H15NO3
reactant | benzaldehyde | 0.5 mmol, 53.1 mg | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium hydrogen carbonate | 15 ml | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 0.05 mmol, 0.05 ml | C(Cl)Cl | CH2Cl2
product | 3-diphenylmethyl-4-methoxycarbonyl-5-phenyl-2-oxazolidinone | C1(=CC=CC=C1)C(N1C(OC(C1C(=O)OC)C1=CC=CC=C1)=O)C1=CC=CC=C1 | C24H21NO4
